US04356302
To 3 parts of the product of the process described in Example 14, 4-(4-chlorophenyl)-5H-pyrido[3,4-b][1,4]benzothiazin-3(2H)-one, suspended in 5 parts acetic acid is added and 1 part 40% peracetic acid. After ten minutes reaction time, water is added to the now homogeneous reaction mixture and the precipitate which forms is collected and recrystallized from aqueous DMF to yield white needles of 4-(4-chlorophenyl)-5H-pyrido[3,4-b][1,4]benzothiazin-3(2H)-one 10 oxide, melting above 310°.

reactant | 4-(4-chlorophenyl)-5H-pyrido[3,4-b][1,4]benzothiazin-3(2H)-one | ClC1=CC=C(C=C1)C=1C(NC=C2SC3=C(NC21)C=CC=C3)=O | C17H11ClN2OS
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | peracetic acid | C(C)(=O)OO | C2H4O3
solvent | water | O | H2O
product | 4-(4-chlorophenyl)-5H-pyrido[3,4-b][1,4]benzothiazin-3(2H)-one 10 oxide | ClC1=CC=C(C=C1)C=1C(NC=C2S(C3=C(NC21)C=CC=C3)=O)=O | C17H11ClN2O2S
